US06498169B1
Synthesis of 4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]-methyl]piperidine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl-4-piperidone (1.40 g) and benzylamine (0.51 g) was condensed in the same manner as described in Preparation Example 37 to give the title compound as yellow amorphous.

reactant | [2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl-4-piperidone | 1.40 g | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C20H24N2O4
reactant | benzylamine | 0.51 g | C(C1=CC=CC=C1)N | C7H9N
product | 4-Benzylamino-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]-methyl]piperidine | C(C1=CC=CC=C1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H33N3O3
